US07776897B2
Toluene solution of 3-(Methoxycarbonyl)benzenecarboxylic acid, thionyl chloride and DMF (a catalytic amount) were heated under stirring. The reaction solution was dissolved in chloroform after evaporation under reduced pressure. After cyclopropylamine and triethylamine were added thereto and the whole was stirred at room temperature to obtain methyl 3-[(cyclopropylamino)carbonyl]benzoate.

reactant | Toluene | C1(=CC=CC=C1)C | C7H8
reactant | 3-(Methoxycarbonyl)benzenecarboxylic acid | COC(=O)C=1C=C(C=CC1)C(=O)O | C9H8O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-[(cyclopropylamino)carbonyl]benzoate | C1(CC1)NC(=O)C=1C=C(C(=O)OC)C=CC1 | C12H13NO3
